Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Neosporin (neo-bac-polym)
 
Attending: ___.
 
Chief Complaint:
 Chest pain  
 
Major Surgical or Invasive Procedure:
Cardiac catheterization 

 
History of Present Illness:
___ year old male with history of CAD s/p MI, hypertension, and 
hyperlipidemia who presents with chest pain. Chest pain started 
this morning while exercising on the treadmill. Symptoms started 
approximately 4 minutes after starting. The pain was substernal 
and described as tightness and non-radiating. The patient felt 
winded but denies lightheadedness, dizziness, nausea, and 
diaphoresis. The pain lasted a couple minutes and resolved 
shortly after getting off the treadmill. The patient had not 
exercised for the past month. At baseline he walks on the 
treadmill for 45-60 minutes on an incline without any chest 
pain. The patient was diagnosed with a "silent MI" ___ years ago 
when he saw his PCP for shortness of breath. Stress echo showed 
inferior and inferolateral hypokinesis which augmented with 
exercise. The patient was medically managed and participated in 
cardiac rehabilitation. He has a significant family history of 
coronary artery disease. His father and brother both had MI in 
their ___.  
 The patient presented to Urgent care. EKG was reportedly 
negative. First troponin was <0.01. The patient was given ASA 
324mg and transferred to ___ for further evaluation.  
In the ED initial vitals were: 96.9 67 122/73 100% RA.  
 - Labs: WBC 7.2, H/H 11.0/33.3, Cr 1.1, troponin <0.01.  
 - EKG: Sinus bradycardia, short PR, Q waves in II, III, and 
aVF. No ST changes.  
 - CXR: No acute intrathoracic process.  
 - Patient was not given any medications.  
 Upon arrival to the floor, the patient reported feeling well. 
No further episodes of chest pain.  
 
Past Medical History:
 - CAD diagnosed on stress echo (infero and inferolateral 
hypokinesis)  
 - Hypertension  
 - Hypercholesterolemia  
 - Asthma  
 - Benign prostatic hypertrophy
 - Hand surgery  
 - Vasectomy  
 - Cholecystectomy
 
Social History:
___
Family History:
 - Mother died a ___ years old with ___ disease, breast 
cancer, and colon cancer.  
 - Father died at ___ years old with CAD and pneumonia.  
 - Brother is living, has coronary artery disease with MI at ___ 
years old.  
 
Physical Exam:
Admission Exam: 
VS: 98.2 157/80 64 18 97%RA 94kg.  
 GENERAL: Well appearing, comfortable, pleasant and in no acute 
distress.  
 HEENT: Atraumatic. PERRL. Moist mucous membranes. Oropharynx 
clear.  
 NECK: Supple, no JVD.  
 CARDIAC: RRR, normal S1, S2. No murmurs.  
 LUNGS: Clear to auscultation bilaterally. No crackles, wheezes, 
or rhonchi.  
 ABDOMEN: +BS, soft, nondistended, nontender to palpation.  
 EXTREMITIES: Warm and well perfused. Pulses 2+. No peripheral 
edema.  
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  

Discharge Exam: 
 
Pertinent Results:
Admission Labs: 
=============
___ 03:20PM BLOOD WBC-7.2 RBC-3.58* Hgb-11.0* Hct-33.3* 
MCV-93 MCH-30.7 MCHC-33.0 RDW-13.2 RDWSD-43.9 Plt ___
___ 03:20PM BLOOD Neuts-63.9 ___ Monos-6.8 Eos-3.2 
Baso-1.0 Im ___ AbsNeut-4.63 AbsLymp-1.77 AbsMono-0.49 
AbsEos-0.23 AbsBaso-0.07
___ 03:20PM BLOOD Plt ___
___ 03:20PM BLOOD Glucose-88 UreaN-19 Creat-1.1 Na-139 
K-4.4 Cl-102 HCO3-27 AnGap-14
___ 03:20PM BLOOD cTropnT-<0.01
___ 07:05AM BLOOD Calcium-9.0 Phos-3.9 Mg-2.5

Pertinent Labs During Hospital Stay: 
============================
___ 03:20PM BLOOD cTropnT-<0.01
___ 09:30PM BLOOD cTropnT-<0.01
___ 07:05AM BLOOD CK-MB-3 cTropnT-<0.01

Discharge Labs: 
=============
___ 08:10AM BLOOD WBC-6.9 RBC-3.41* Hgb-10.1* Hct-31.9* 
MCV-94 MCH-29.6 MCHC-31.7* RDW-13.8 RDWSD-45.8 Plt ___
___ 08:10AM BLOOD Plt ___
___ 08:10AM BLOOD ___
___ 08:10AM BLOOD Glucose-101* UreaN-15 Creat-1.3* Na-134 
K-4.5 Cl-101 HCO3-26 AnGap-12
___ 08:10AM BLOOD Calcium-9.2 Phos-3.4 Mg-2.2

Microbiology: 
===========
None 

Procedure: 
===========
Cardiac Cath ___: IMPRESSION - normal coronary arteries. 
RECOMMENDATIONS: switch to a calcium channel blocker. 

Imaging: 
===========
___ CXR 
No acute intrathoracic process.

EKGs: 
===========
Cardiovascular ReportECGStudy Date of ___  5:10:06 ___
Sinus bradycardia. Short P-R interval. Non-diagnostic inferior 
and lateral
limb and precordial Q waves. Early R wave progression. Compared 
to the
previous tracing of ___ the rate is now faster. Otherwise, 
no change.
TRACING #1
 Rate58PR12___

Cardiovascular ReportECGStudy Date of ___  9:22:54 ___
Sinus rhythm. Compared to tracing #1 the rate is now faster. 
Otherwise,
probably no change.
TRACING #2
Rate ___

Cardiovascular ReportECGStudy Date of ___  3:01:52 ___
TRACING SUBMITTED LATE AND OUT OF SEQUENCE. Sinus rhythm. Short 
P-R interval.
Consider prior posterolateral myocardial infarction. Tracing is 
similar to
that subsequent tracing recorded on ___ without diagnostic 
intermim
change.
Rate ___
 
Brief Hospital Course:
___ year old male with history of CAD s/p MI, hypertension, and 
hyperlipidemia who presents with chest pain with exertion 

# UNSTABLE ANGINA: Patient presented with one episode chest pain 
within 4 minutes of walking on treadmill. He can usually can 
walk for 45 minutes without problem. Patient with known coronary 
artery disease by stress echo which was medically managed 
without intervention. EKG during this hospital stay without 
evidence of new ischemia. Troponins negative. Cardiac 
catheterization performed with no intervention given normal 
coronaries visualized. Recommended initiation of CCB for 
coronary spasm. Started on  amlodipine 2.5mg daily for spasm. 
Patient additionally continued on ASA 81 mg. Started on 
metoprolol XL 12.5mg and uptitrated atorvastatin to 80mg.  
  
 CHRONIC ISSUES:  
 # HTN: Continue lisinopril.  
 # HLD: Increase atorvastatin to 80mg as above.  
 # ASTHMA: Albuterol PRN. 

Transitional Issues: 
====================
- atorvastatin uptitrated to 80mg qhs 
- started on amlodipine 
- started on metoprolol 

# CODE: Full 
# CONTACT: ___ (Wife) C: ___, H: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
4. sildenafil 50 mg oral PRN sexual activity  
5. Aspirin 81 mg PO DAILY 
6. alfuzosin 10 mg oral DAILY 
7. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN SOB 
8. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Lisinopril 20 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN SOB 
6. alfuzosin 10 mg oral DAILY 
7. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
8. sildenafil 50 mg oral PRN sexual activity  
9. Amlodipine 2.5 mg PO DAILY 
RX *amlodipine 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
10. Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
daily Disp #*15 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses: 
Coronary artery vasospasm 

Secondary diagnoses: 
Hypertension 
Hyperlipidemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You came into the hospital due to chest pain. We performed a 
cardiac catheterization that did not show any evidence of 
blockages in your arteries. We think the chest pain that you 
experienced was likely due to a spasm of the arteries in your 
heart. We added a new medication called amlodipine that can help 
with these spasms. 

We also added a new medication called metoprolol that can help 
with the function of your heart. 

You should follow up with your primary care physician and 
cardiologist. 

We wish you the best. 
- Your ___ Care Team 

 
Followup Instructions:
___